US07612067B2
C. 3-Iodo-2,6-dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine.
A 50 mL round bottom flask is charged with 2,6-dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine (0.51 g, 0.0021 moles) and acetonitrile (3 mL). The reaction mixture is placed on an ice bath and NIS (0.468 g, 0.00208 moles) is added neat. The reaction is stirred overnight and the ice bath melts. The next day, the reaction mixture is partitioned between dichloromethane and a saturated aqueous solution of NaHCO3. The organic layer is collected and the aqueous layer is extracted two more times with dichloromethane. The organic extracts are combined, washed with brine, and dried over Na2SO4. The solvent is evaporated and the crude material is purified via silica gel chromatography eluting with hexanes and then a 25:75 mixture of ethyl acetate and hexanes. Yield=0.435 g (56%). MS (APCI): 372 (M+1).

reactant | 2,6-dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine | 0.0021 moles, 0.51 g | CC=1N=C2N(N=C(C=C2C(CCC)CCC)C)C1 | C15H23N3
reactant | NIS | 0.00208 moles, 0.468 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-Iodo-2,6-dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine | IC1=C(N=C2N1N=C(C=C2C(CCC)CCC)C)C | C15H22IN3
